US08703798B2
Synthesis of (5-Bromo-pentyl)-cyclohexane:
A mixture of 1,5-dibromopentane (16 gm, 69.97 mmol) in THF (20 ml) and a solution of (Li2CuCl4 in ether, 14 ml) under nitrogen at 5-10° C. was stirred for 25 minutes and then cyclohexyl magnesium bromide (10 gm, 69.97 mmol) was added dropwise over 30 minutes. The reaction was stirred at 0° C. for another 1 h, then at room temperature for 12 hr. The reaction mixture was cooled to 0° C., saturated with NH4Cl solution (20 ml), diluted with ethyl acetate (100 ml) and the combined organic layer was separated, washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the crude product was purified by column chromatography using hexane as an eluent. The pure product was an oily liquid (12.84 gm). 1H NMR (CDCl3): 0.8 (t, 2H, J=10.2 Hz), 1.00-1.38 (m, 9H), 1.52-168 (m, 6H), 1.70-1.80 (m, 2H), 3.38 (t, 2H, J=7.2 Hz).

reactant | 1,5-dibromopentane | 69.97 mmol, 16 gm | BrCCCCCBr | C5H10Br2
reactant | cyclohexyl magnesium bromide | 69.97 mmol, 10 gm | C1(CCCCC1)[Mg]Br
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (5-Bromo-pentyl)-cyclohexane | BrCCCCCC1CCCCC1 | C11H21Br
